US04005103
15.3 G of 1-cyclopropyl-3-(p-chlorophenyl)-4-methyl-4-nitropentanone in 200 ml of ethanol saturated with ammonia are hydrogenated for 7 hours 30 minutes under 100 atmospheres at 120° C in the presence of 8 g of Raney Nickel. After filtration and concentration of the filtrate in vacuo, the residue is diluted with ethanol-ether (50:50) and the base is neutralised with hydrogen chloride in ether. The precipitate so obtained is filtered off, washed with ether and recrystallized from isopropanol to give 9.5 g of 2-cyclopropyl-4-(p-chlorophenyl)-5,5-dimethyl-pyrrolidine hydrochloride as white crystals. Melting point = 235°-240° C.

reactant | 1-cyclopropyl-3-(p-chlorophenyl)-4-methyl-4-nitropentanone | C1(CC1)CC(C(C(C)([N+](=O)[O-])C)C1=CC=C(C=C1)Cl)=O | C15H18ClNO3
reactant | ammonia | N | H3N
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 8 g | [Ni] | Ni
product | 2-cyclopropyl-4-(p-chlorophenyl)-5,5-dimethyl-pyrrolidine hydrochloride | 9.5 g | Cl.C1(CC1)C1NC(C(C1)C1=CC=C(C=C1)Cl)(C)C | InChI=1S/C15H20ClN.ClH/c1-15(2)13(9-14(17-15)11-3-4-11)10-5-7-12(16)8-6-10;/h5-8,11,13-14,17H,3-4,9H2,1-2H3;1H
